US06262241B1
2′-Deoxy-2′-fluoro-5′-O-(4,4′-dimethoxytrityl)-uridine3′-O-(N,N-diisopropyl-β-cyanoethylphosphoramidite). (67)
The title compound is prepared via a modification of a literature procedure, J. Fox, et al., J. Org. Chem., Vol. 29, pp. 558-564 (1964). Thus, 2,2′-cyclouridine (5.65 g, 25 mmol) is treated with a solution of 70% hydrogen fluoride/pyridine (65 mL) in anhydrous dioxane (500 mL) at 120° C. in a sealed steel vessel for twenty hours. The reaction mixture is cooled to ice temperature, poured into ice (400 mL), and the pH is adjusted to 7 by addition of solid CaCO3. After the solvent is evaporated in vacuo (1 torr), the residue is dissolved in methanol, adsorbed onto silica gel, and purified by column chromatography using silica and ethyl acetatemethanol (v/v, 20:1) as eluent to give 2′-deoxy-2′-fluoro-uridine as a white solid (4.81 g, 79%). The 5′-DMT and 3′-cyanoethoxy-diisopropyl phosphoramidite derivatized nucleoside are obtained in accordance with the procedures of examples 65 and 66.

reactant | 2,2′-cyclouridine | 25 mmol, 5.65 g | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C9H10N2O5
reactant | hydrogen fluoride/pyridine | 65 mL | C1=CC=NC=C1.F
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 2′-deoxy-2′-fluoro-uridine | 4.81 g, 79% | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
